US06878708B2
2-Butyrylaminobutyric Acid
25.78 g of 2-aminobutyric acid (250 mmol) and 55.66 g (550 mmol) of triethylamine are dissolved in 250 ml of dichloromethane, and the solution is cooled to 0° C. 59.75 g (550 mmol) of trimethylsilyl chloride are added dropwise, and the solution is stirred at room temperature for 1 hour and at 40° C. for one hour. After cooling to −10° C., 26.64 g (250 mmol) of butyryl chloride are added dropwise, and the resulting mixture is stirred at −10° C. for 2 hours and at room temperature for one hour. With ice-cooling, 125 ml of water are added dropwise, and the reaction mixture is stirred at room temperature for 15 minutes. Aqueous sodium hydroxide solution is added to the organic phase, and the organic solvent is removed under reduced pressure. The residue is acidified and the precipitated solid is triturated once with water and twice with petroleum ether and dried under reduced pressure at 45° C. 29.1 g (67%) of a colorless solid.

reactant | 2-aminobutyric acid | 250 mmol, 25.78 g | NC(C(=O)O)CC | C4H9NO2
reactant | triethylamine | 550 mmol, 55.66 g | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl chloride | 550 mmol, 59.75 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | butyryl chloride | 250 mmol, 26.64 g | C(CCC)(=O)Cl | C4H7ClO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | water | 125 ml | O | H2O
product | 2-Butyrylaminobutyric Acid | C(CCC)(=O)NC(C(=O)O)CC | C8H15NO3
